US08242104B2
Ethylmagnesium bromide (3.0 M in Et2O, 100 mmol, 33.3 mL) was added dropwise to a solution of 9-chloro-2-iodo-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepine (10.0 g, 28.8 mmol) in tetrahydrofuran (173 mL) at −20° C. The mixture was maintained at this temperature 20 min and then allowed to warm to ambient temperature for a 1 hr period. At this point, the reaction was re-cooled to −20° C. and N,N-dimethylformamide (8.9 mL, 115 mmol) was added to the mixture. Stirring was continued for 16 h before quenching with saturated aqueous ammonium chloride solution (220 mL) and further dilution with EtOAc (250 mL). The phases were separated and the aqueous layer was extracted twice with EtOAc. The combined organic portions were washed once with brine, dried over MgSO4, filtered and concentrated in vacuo. This provided 7.08 g (98% yield) of 9-chloro-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepine-2-carbaldehyde as a yellow solid in >95% purity as determined by analytical HPLC. MS (ESI+): m/z 249.8 (M+H), calc. 249.65.

reactant | Ethylmagnesium bromide | 100 mmol, 3.0 M, 33.3 mL | C(C)[Mg]Br
reactant | 9-chloro-2-iodo-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepine | 28.8 mmol, 10.0 g | ClC1=CC2=C(C=3N(CCO2)C=C(N3)I)C=N1 | C10H7ClIN3O
reactant | N,N-dimethylformamide | 115 mmol, 8.9 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 173 mL | O1CCCC1 | C4H8O
product | 9-chloro-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepine-2-carbaldehyde | 7.08 g, 98% yield | ClC1=CC2=C(C=3N(CCO2)C=C(N3)C=O)C=N1 | C11H8ClN3O2
